US08809012B2
Step 12: Synthesis of methyl 2-(N-(4-propylbenzyl)-2-(4-propylphenyl) acetamido)acetate
Methyl 2-((4-propylbenzyl)amino)acetate (24.5 mg, 0.0983 mmol) and 2-(4-propylphenyl)acetic acid (17.5 mg, 0.0983 mmol) were dissolved in 1 mL of well-dried DCM under argon condition and then EDC (56.5 mg, 0.295 mmol), HOBt (39.8 mg, 0.295 mmol) and DIPEA (84.3 μL, 0.491 mmol) were added and the reaction mixture was stirred for 20 hours at room temperature. Upon completion of the reaction, the reaction was terminated by adding 3 mL of water, and the reaction mixture was extracted with DCM (3 mL×4). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 31.1 mg (0.0789 mmol, 80%) of the desired compound.

reactant | Methyl 2-((4-propylbenzyl)amino)acetate | 0.0983 mmol, 24.5 mg | C(CC)C1=CC=C(CNCC(=O)OC)C=C1 | C13H19NO2
reactant | 2-(4-propylphenyl)acetic acid | 0.0983 mmol, 17.5 mg | C(CC)C1=CC=C(C=C1)CC(=O)O | C11H14O2
reactant | EDC | 0.295 mmol, 56.5 mg
reactant | HOBt | 0.295 mmol, 39.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.491 mmol, 84.3 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(N-(4-propylbenzyl)-2-(4-propylphenyl) acetamido)acetate | 0.0789 mmol, 31.1 mg, 80% | C(CC)C1=CC=C(CN(C(CC2=CC=C(C=C2)CCC)=O)CC(=O)OC)C=C1 | C24H31NO3
